US08236943B2
Step 1: Synthesis of 4-(2-Methanesulfonylethyl)-2,2-dimethyl-1,3-dioxolane (Compound I)
4-(2-Hydroxylethyl)-2,2-dimethyl-1,3-dioxolane (25 g, 170 mmol), triethylamine (55.9 mL, 400 mmol), and a stir bar were added to a 1000 mL round bottom flask. The flask was sealed and flushed with nitrogen. Anhydrous DCM (600 mL) was added, and the mixture cooled to approx −5° C. (ice and NaCl). Mesyl chloride (19.9 mL, 255 mmol, 1.5 eq) was added slowly via syringe over a 60 minute period, and the reaction stirred at −5° C. for a further 1.5 hours. At this point TLC showed that the starting material had been consumed. The solution was diluted with DCM (350 mL), divided into two (˜500 mL) portions, and each portion worked up as follows: the solution was transferred to a 1000-mL separating funnel and washed with saturated NaHCO3 (2×200 mL). The organic phase was then dried (MgSO4), filtered, and concentrated (rotovap). The crude product was purified by column chromatography. Final yield: 32.0 g, 84.1%.

reactant | 4-(2-Hydroxylethyl)-2,2-dimethyl-1,3-dioxolane | 170 mmol, 25 g | OCCC1OC(OC1)(C)C | C7H14O3
reactant | triethylamine | 400 mmol, 55.9 mL | C(C)N(CC)CC | C6H15N
reactant | Mesyl chloride | 255 mmol, 19.9 mL, 1.5 eq | S(=O)(=O)(C)Cl | CH3ClO2S
product | 4-(2-Methanesulfonylethyl)-2,2-dimethyl-1,3-dioxolane | CS(=O)(=O)CCC1OC(OC1)(C)C | C8H16O4S
